US08053457B2
(R)-3-(Pyridin-3-ylmethoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
55% of NaH in mineral oil (160 mg, 6.68 mmol) is added to a solution of (R)-3-Hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 2.67 mmol) in THF (8 mL) at 0° C. After 15 min, 3-chloromethyl-pyridine HCl salt (526 mg, 3.20 mmol) is added, and the reaction mixture is stirred at 40° C. After completion, the reaction mixture is quenched by H2O, EtOAc is added and the organic layer is washed with brine, dried over MgSO4 and evaporated in vacuo. Silica gel flash chromatography of the residue affords the title compound as a white powder; ES-MS: M+=279.2: AtRet=2.80.

reactant | NaH | [H-].[Na+]
reactant | (R)-3-Hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.67 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
reactant | 3-chloromethyl-pyridine HCl salt | 3.20 mmol, 526 mg | Cl.ClCC=1C=NC=CC1
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (R)-3-(Pyridin-3-ylmethoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OCC=1C=NC=CC1 | C15H22N2O3
